US07534797B2
8-Fluoro-4-methyl-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl) quinoline
7-Chloro-8-fluoro-4-methyl-2-phenylquinoline (390 mg, 1.4 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (423 mg, 1.66 mmol), potassium acetate (352 mg, 3.59 mol), palladium acetate (9.7 mg, 0.043 mol), 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride (37 mg, 0.086 mol), and THF (2.9 mL) were combined in a 25 mL R.B. flask fit with a reflux condensor. The reaction was stirred and subject to 3 vacuum-argon cycles, and then refluxed for 2 days. The reaction was allowed to cool, and was then filtered through a pad of silica gel eluting rinsing with THF. The solvent was evaporated in vacuo, and the residue was stirred in 15 mL of hexanes. The solid was collected, washed with hexanes and put under vacuum overnight to afford the title compound as a white crystalline solid; 1H NMR (CDCl3, 400 MHz) δ 1.37 (s, 12H), 2.77 (s, 3H), 7.52-7.60 (m, 3H), 7.70-7.73 (dd, 1H, J=8.3 & 5.6 Hz), 7.87-7.89 (dd, 1H, J=8.3 Hz), 8.18 (d, 1H, J=0.8 Hz), 8.27-8.30 (m, 2H); MS (ES+): 349.93 (100) [MH+]; HPLC tR=3.94 min (OpenLynx, nonpolar—5 min).

reactant | 7-Chloro-8-fluoro-4-methyl-2-phenylquinoline | 1.4 mmol, 390 mg | ClC1=CC=C2C(=CC(=NC2=C1F)C1=CC=CC=C1)C | C16H11ClFN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.66 mmol, 423 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.59 mol, 352 mg | C(C)(=O)[O-].[K+]
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride | 0.086 mol, 37 mg | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[ClH] | C27H37ClN2
catalyst | palladium acetate | 0.043 mol, 9.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 2.9 mL | C1CCOC1 | C4H8O
product | 8-Fluoro-4-methyl-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl) quinoline | FC=1C(=CC=C2C(=CC(=NC12)C1=CC=CC=C1)C)B1OC(C(O1)(C)C)(C)C | C22H23BFNO2
